* Circuit: Chap26_LTspice/Fig26_24_large
.lib ${SKY130_PDK} tt

VDD VDD 0 1.8
xm2 N001 N001 N005 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm1 N001 N001 N006 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm4 N001 Vbiasn N002 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm3 vodm Vbiasn N003 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
VCM VCM 0 500m
X_U1 Vbiasn Vbiasp VDD 0 Fig_26_3
xm6 N001 Vbiasn N002 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm7 vodp Vbiasn N004 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm8 N002 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm9 N003 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm10 N002 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm11 N004 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm12 vodp N001 ncr 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm13 vodm N001 ncl 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm5 N008 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm14 N008 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm15 N007 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm16 N007 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm17 ncr Vm N007 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm18 ncl Vp N007 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm19 N005 Vp N008 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm20 N006 Vm N008 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm21 vom vodp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm22 N010 vodm VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm23 vom N010 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm24 N010 N010 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
C1 vom ncr 5e-14
xm25 vop vodm VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm26 N009 vodp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm27 vop N009 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm28 N009 N009 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
C2 vop ncl 5e-14
R1 vop vm 20000.0
R2 vm vip 20000.0
Vip vip 0 PULSE 700m 300m 0 500p 500p 4.5n 10n
R3 vom vp 20000.0
R4 vp vim 20000.0
Vip1 vim 0 PULSE 300m 700m 0 500p 500p 4.5n 10n
C3 vom 0 2.5e-13
C4 vop 0 2.5e-13
.subckt Fig_26_3 Vbiasn Vbiasp VDD GND
  xmsu2 N002 N002 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xmsu1 N002 Vbiasn GND 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xmsu3 Vbiasp N002 Vbiasn 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm3 Vbiasn Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm4 N003 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm1 Vbiasn Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  R1 N004 0 4k
  xma4 Vbiasp N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xma3 N001 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm5 N001 N003 0 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm7 VDD Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=5
  xm2 Vbiasp Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm6 N003 N003 N004 0 sky130_fd_pr__nfet_01v8 w=2 l=0.15
.ends Fig_26_3

.control
tran 1p 100n

let power = v(VDD) * abs(i(VDD))
let avg_power = mean(power)
print avg_power

meas tran vout_max MAX v(vom)
meas tran vout_min MIN v(vom)
let vout_swing = vout_max - vout_min
print vout_swing

meas tran rise_time TRIG v(vom) VAL='0.1*vout_max' RISE=1 TARG v(vom) VAL='0.9*vout_max' RISE=1
meas tran fall_time TRIG v(vom) VAL='0.9*vout_max' FALL=1 TARG v(vom) VAL='0.1*vout_max' FALL=1
print rise_time fall_time

quit
.endc

.end
